US05472933
N-(1,1-Dimethylethyl)-1-methyl-1H-pyrrole-2-sulfonamide
A solution of 10 g (0.12 mol) of N-methyl-pyrrole in 120 mL of anhydrous THF under nitrogen atmosphere was cooled to below -70° C. then treated with 56 mL of 2.4M n-butyllithium in hexanes (0.13 mol) dropwise at such a rate as to keep the temperature below -60° C. The resulting brown colored mixture was stirred for 16 h at ambient temperature, then recooled to below -70° C. at which time liquified sulfur dioxide (9.0 mL, 0.21 mol) was added rapidly, causing an exotherm at -20° C. and the formation of a thick golden colored precipitate. After stirring for 1 h at ambient temperature, the THF was removed under reduced pressure. The solids were triturated with ether and collected by filtration with an ether rinse then dried under nitrogen. This intermediate sulfinate salt was added to a well stirred mixture of 350 mL water and 250 mL dichloromethane chilled to 0° C. N-Chlorosuccinimide was then added in portions so as to keep the temperature below 3° C. The mixture was stirred vigorously for 30 min at ambient temperature, after which time, the layers were separated and the organic layer was washed successively with 10% aq NaHSO3, twice with aq NaHCO3, dried (MgSO4) and filtered. This dichloromethane solution was then cooled to 0° C. and stirred while 32 mL (0.30 mol) of t-butylamine was added over 2 min. After stirring for 1 h at ambient temperature, solids had precipitated from the brown solution which was then left stirring for 3 days. The mixture was diluted with more dichloromethane then washed three times with 1N HCl, once with saturated aq NaCl, dried (MgSO4) and evaporated. The resulting solid residue was triturated and collected with a mixture of hexanes and n-chlorobutane to afford 7.4 g of the title compound as tan crystals, m.p. 125°-126° C. 1H NMR (CDCl3, 200 MHz.) δ: 6.82 (m,1H), 6.78 (m,1H), 6.10 (m,1H), 4.53 (bs,1H), 3.83 (s,3H), 1.23 (s,9H).

reactant | N-methyl-pyrrole | 0.12 mol, 10 g | CN1C=CC=C1 | C5H7N
reactant | n-butyllithium | 2.4M, 56 mL | C(CCC)[Li]
reactant | sulfur dioxide | 0.21 mol, 9.0 mL | S(=O)=O | O2S
reactant | t-butylamine | 0.30 mol, 32 mL | C(C)(C)(C)N | C4H11N
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | N-(1,1-Dimethylethyl)-1-methyl-1H-pyrrole-2-sulfonamide | 7.4 g | CC(C)(C)NS(=O)(=O)C=1N(C=CC1)C | C9H16N2O2S
